US08067590B2
7a 7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester
To 10.0 g (40.2 mmol) 7-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride in 250 mL DCM and 50 mL (101 mmol) 2M aqueous Na2CO3-solution is added a solution of 9.27 g (42.5 mmol) BOC-anhydride in DCM. The reaction is stirred 1 h at RT and is diluted with 100 mL water. The organic phase is washed with water, dried over MgSO4, filtered and the solvent is evaporated. To the residue is added PE and the mixture is cooled to −30° C. The precipitate is collected, washed with cold PE and dried.

reactant | 7-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 40.2 mmol, 10.0 g | Cl.BrC1=CC=C2CCNCC2=C1
reactant | Na2CO3 | 101 mmol, 2M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)Br | C14H18BrNO2
